US04138488
5-(Diphenylmethyl)-Picolinic Acid
A mixture of 8.2 g. 2-styryl-5-(diphenylmethyl)-pyridine and 120 ml. of acetone is cooled to -10° C. and with vigorous stirring 6.66 g. of finely divided potassium permanganate is added slowly, in a portion-wise fashion, over a 1.5 hour period whilst maintaining the temperature below -5° C. Allow the mixture to stand at -15° C. for 15 hours, filter and wash the solids with chloroform and extract three times with 150 ml. of boiling water. Acidify the aqueous extracts with hydrochloric acid and extract with ether. Discard the ether extracts and basify the aqueous phase to pH 2.5 and filter and dry the precipitated acid which is recrystallized from ethanol to yield the tiltle product (m.p. 189°-191° C.).

reactant | 2-styryl-5-(diphenylmethyl)-pyridine | C(=CC1=CC=CC=C1)C1=NC=C(C=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21N
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 5-(Diphenylmethyl)-Picolinic Acid | C1(=CC=CC=C1)C(C=1C=CC(=NC1)C(=O)O)C1=CC=CC=C1 | C19H15NO2
